US07138491B2
The preparation of Boc-Asn-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 17)
At 0° C. the solution of 1160 mg (1.26 mmol) of HCl.Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 12) in 50 ml of anhydrous tetrahydrofuran was adjusted to pH 9, to which the pre-cold solution of 500 mg (1.41 mmol) of Boc-Asn-ONp in 10 ml of anhydrous tetrahydrofuran was added. The reaction mixture was stirred at room temperature for 96 h and TLC (chloroform/methanol, 9:1) indicated complete disappearance of HCl.Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 12). The reaction mixture was evaporated to dryness and the residue was purified on sinica gel chromatography (CHCl3/CH3OH, 10:1) to provide 800 mg (57%) of the title compound as a glassy mass. Mp 86–88° C., FAB-MS (m/e) 1097[M+H]+.

reactant | HCl | 1.26 mmol, 1160 mg | Cl | ClH
reactant | Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl | N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1 | C42H55ClN8O9S
reactant | Boc-Asn-ONp | 1.41 mmol, 500 mg | N([C@@H](CC(N)=O)C(=O)OC1=CC=C([N+](=O)[O-])C=C1)C(=O)OC(C)(C)C | C15H19N3O7
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Boc-Asn-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl | 800 mg, 57% | N([C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C51H69ClN10O13S
